US05821250
A mixture of benzyltrimethylammonium dichloroiodate (31.70 g, 91.0 mmol), 5-acetyl-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan (12.35 g, 50.2 mmol), 300 mL of 1,2-dichloroethane, and 120 mL of methanol is heated at reflux for 13 h. The reaction mixture is cooled to room temperature and concentrated in vacuo; 5% aqueous sodium bisulfite solution (125 mL) is added to the residue obtained. This mixture is extracted with ether; the extract is washed with aqueous sodium bicarbonate solution and with brine, dried over anhydrous magnesium sulfate, and concentrated to produce about 14.09 g (100%) of 5-chloro-acetyl-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan as a reddish solid: mp 76°-77° C.

reactant | benzyltrimethylammonium dichloroiodate | 91.0 mmol, 31.70 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 5-acetyl-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan | 50.2 mmol, 12.35 g | C(C)(=O)C1=CC2=C(OCC2(C)C)C(=C1)C(C)(C)C | C16H22O2
reactant | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
solvent | methanol | 120 mL | CO | CH4O
product | 5-chloro-acetyl-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan | about 14.09 g, 100% | ClC1=CC2=C(OC(C2(C)C)C(C)=O)C(=C1)C(C)(C)C | C16H21ClO2
